US06838463B2
To 4 ml of ethanol were added 0.5 g of 4-chloro-6-(2-butynyloxy)pyrimidine and 0.68 g of N-ethyl-N-benzylamine, followed by heating under reflux for 6 hours. The reaction mixture was then left for cooling to room temperature and concentrated under reduced pressure. A saturated aqueous ammonium chloride solution was poured onto the residue, which was extracted three times with ethyl acetate. The organic layers were combined and washed with a saturated aqueous sodium chloride solution, and the combined organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel column chromatography to give 0.42 g of 6-(2-butynyloxy)-4-(N-ethyl-N-benzylamino)pyrimidine (the present compound (129)).

reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 0.5 g | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | N-ethyl-N-benzylamine | 0.68 g | C(C)NCC1=CC=CC=C1 | C9H13N
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 6-(2-butynyloxy)-4-(N-ethyl-N-benzylamino)pyrimidine | 0.42 g | C(C#CC)OC1=CC(=NC=N1)N(CC1=CC=CC=C1)CC | C17H19N3O
